US04025622
1-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl)-3-(1,3-dimethylpyrimidin-2,4-dione-6-yl)-2-thiourea
To 10 ml of anhydrous xylene were added 390 mg (1 mmol) of 2,3,4,6-tetra-O-acetyl-D-glucopyranosyl isothiocyanate and 140 mg (1 mmol) of 6-amino-1,3-dimethyluracil (MW 155) and the mixture was heated on an oil bath under reflux for 9-10 hours and allowed to cool to room temperature. Crystals formed were filtered off and recrystallized from ethanol to give colourless needles melting between 171° and 173° C. (uncorrected). Yield: 240 mg (43%).

reactant | 2,3,4,6-tetra-O-acetyl-D-glucopyranosyl isothiocyanate | 1 mmol, 390 mg | C(C)(=O)O[C@H]1C(O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)N=C=S | C15H19NO9S
reactant | 6-amino-1,3-dimethyluracil | 1 mmol, 140 mg | NC1=CC(N(C(N1C)=O)C)=O | C6H9N3O2
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl)-3-(1,3-dimethylpyrimidin-2,4-dione-6-yl)-2-thiourea | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)NC(=S)NC1=CC(N(C(N1C)=O)C)=O | C21H28N4O11S
